US09102591B2
A mixture of (Z)-1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone oxime (320 mg, 1.19 mmol) and aq.NH3 (2 mL) was hydrogenated with Raney Ni (300 mg) under H2 (50 Psi) for 3 h. The reaction mixture was filtered and concentrated. The residue was dissolved in EtOAc (15 mL), dried over Na2SO4 and concentrated to give 1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanamine (300 mg), which was used for the next step directly.

reactant | (Z)-1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone oxime | 1.19 mmol, 320 mg | FC1(CCC(CC1)(C=1C=NC(=NC1)C)\C(\C)=N/O)F | C13H17F2N3O
reactant | NH3 | 2 mL | N | H3N
catalyst | Ni | 300 mg | [Ni] | Ni
product | 1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanamine | 300 mg | FC1(CCC(CC1)(C=1C=NC(=NC1)C)C(C)N)F | C13H19F2N3
